US07507729B2
a) (3-Trifluoromethyl-pyridin-2-yloxy)-acetic acid ethyl ester
As described for example 320a, 2-hydroxy-3-(trifluoromethyl)-pyridine was reacted with ethyl bromoacetate and potassium carbonate. Extractive workup followed by chromatography (SiO2, heptane:ethyl acetate=100:0 to 40:60) afforded 2 compounds. The title compound was eluted first and was obtained as a colorless liquid (yield: 2%). MS: m/e=250.1 [M+H]+.

reactant | 2-hydroxy-3-(trifluoromethyl)-pyridine | OC1=NC=CC=C1C(F)(F)F | C6H4F3NO
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-Trifluoromethyl-pyridin-2-yloxy)-acetic acid ethyl ester | yield: 2% | C(C)OC(COC1=NC=CC=C1C(F)(F)F)=O | C10H10F3NO3
